US09085555B2
A. (2S,4R)-4-Fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester
To a suspension of N-Boc-trans-4-fluoro-L-proline (4.5 g, 19.29 mmol) in CH2Cl2 (68 mL) were added DCC (4.78 g, 23.15 mmol), DMAP (0.236 g, 1.93 mmol) and benzyl alcohol (2 mL, 19.29 mmol). The resulting white suspension was stirred at RT for 48 h and filtered. The filtrate was concentrated to give a colorless oil which was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 4-1) to give the desired compound. TLC, Rf (c-hexane/EtOAc 3:1)=0.3; MS: 346.0 [M+Na]+; tR (HPLC conditions a): 3.85 min.

reactant | N-Boc-trans-4-fluoro-L-proline | 19.29 mmol, 4.5 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)C[C@H](C1)F | C10H16FNO4
reactant | DCC | 23.15 mmol, 4.78 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | benzyl alcohol | 19.29 mmol, 2 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | CH2Cl2 | 68 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.93 mmol, 0.236 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S,4R)-4-Fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C17H22FNO4
